* C:\IIT_KGP_IC_Design\Two-Stage Diff Amp\two_stg_diff_amp.asc
* Generated by LTspice 24.1.8 for Windows.
M1 N002 vin+ N004 0 n_65 l=180n w=10u
M2 N003 vin- N004 0 n_65 l=180n w=10u
M3 N004 N005 0 0 n_65 l=300n w=10u
M4 N005 N005 0 0 n_65 l=300n w=10u
I1 vdd N005 5µ
M5 N003 N001 vdd vdd p_65 l=200n w=20u
M6 N002 N001 vdd vdd p_65 l=200n w=20u
M7 N001 N005 0 0 n_65 l=300n w=5u
M8 N001 N001 vdd vdd p_65 l=200n w=20u
V1 vdd 0 1.2
V2 vin+ 0 0.6
V3 vin- 0 SINE(0.6 10m 100k)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\srija\AppData\Local\LTspice\lib\cmp\standard.mos
.include 65nm_bulk.mos
.tran 100u
.backanno
.end
